* D:\LTSpice\Termoreg2\LTSPICE_termoreg\OldScheme\Variant2\TermoReg_old.asc
V§U6.4V 6.4V 0 6.4
Rbr1 bridge2 0 7.5k
Rbrs Vrt1 Vrt2 5.4k
Rbr2 Vrt2 0 7.5k
Rbr3 N004 Vrt1 2.61k
V§U15V 15V 0 15
V§Un15V -15V 0 -15
Rdiff1 N001 Vrt2 51k
Rdiff2 N002 bridge2 51k
Rdiff4 N002 0 210k
Rdiff3 A N001 210k
Rp1 A N008 2.2k
Rp2 N008 0 6.8k
Rp3 N009 N008 1Meg
Rp4 N009 N010 2.2k
Rp5 N010 0 4.7k
Rheat 24V Collector 60
V§Un24 24V 0 24
Rp7 Collector N013 47k
Rp8 N013 0 22k
Rp9 N014 N012 100k
Rp10 0 N012 150k
Rp6 N011 N010 1k
Cp3 N013 N014 2.2µ
Cp1 N009 N008 0.1µ
Cdiff1 A N001 0.1µ
Cp2 N011 0 0.1µ
Eth VRTk 0 Collector 0 Laplace={Kth}/(180*s+1)*exp(-0.8*s)
Dbr1 0 N003 zbr1
Rbrz N003 15V 1.5k
Rbr4 NC_01 NC_02 4.52k
XXbrrd Vrt1 bridge2 VRT 0 resvolt3 params: rv=1 a=0
B1 N005 0 V=if(time<2200,24,if(time>2200,if(time<2203,0,24),24))
Qp1 Collector N011 0 0 bjtp1
XXdistb Vrt1 Vrt2 N006 0 resvolt3 params: rv=286.2k a=0
Bdistb N007 0 V=if(time>3000,1,3000)
Edistb N006 0 N007 0 Laplace=1/(1*s+1)
XUdiff1 N002 N001 15V -15V A level2 Avol=250k GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos={vdiffos} En=0 Enk=0 In=0 Ink=0 Rin=500Meg
Vbr N004 0 7.4
Bnoise A+noise 0 V=1
XUp1 N012 N008 15V -15V N009 level2 Avol=250k GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
Bth VRT 0 V=V(VRTk)+{ath}
Idiff1 N001 0 {idiffin}

* block symbol definitions
.subckt resvolt3 1 2 Vin Vcom
B1 1 2 V={RV_Ratio}*I(B1)*(V(Vin)-V(Vcom))+Const*I(B1)
I1 Vcom 0 0
I2 Vin 0 0
.param RV_Ratio=rv
.param Const=a
.ends resvolt3

.model D D
.lib C:\Users\Sergey\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\Sergey\Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 0 6000 0
* Wheatstone Bridge
* Power Supply
* Input Diff Amplifier
* Thermostat
* Power Block
.model zbr1 AKO:BZX384B6V2 (Bv=6.42)
* Set Point Disturbance
.model bjtp1 AKO:TIP31C (Bf={bth}  ikf=0 )
* Model Congig
* Noise
.param noisetime 10
.param noiselevel 500
* V=white(time*{noisetime})/{noiselevel}*4+V(A)
.param kth =75
.param ath =4000
.param bth =1000
.param vdiffos =0
.param idiffin =0
* .step param kth list 67.5 75 82.5
* .step param x list 0 0.1 1
.lib UniversalOpAmp2.lib
.backanno
.end
