* D:\LTSpice\Termoreg2\LTSPICE_termoreg\pyltspice\for_py2.asc
V§U6.4V 6.4V 0 6.4
R2 bridge2 0 7.5k
R4 Vrt1 bridge1 R=if(time<1500,8056,8046)
R6 bridge1 0 R=if(time<500,7.5k,if(time>500,if(time<501,1,7.5k),7.5k))
R1 NC_01 NC_02 2.61k
V§U15V 15V 0 15
V§Un15V -15V 0 -15
V§Un24 24V 0 24
R5 prop N011 33k
R7 N011 A 10k
C2 P001 N014 2.2µ
C6 N015 N018 6.6µ
R22 N014 A 470k
R23 diff N015 500k
R24 A1 N012 10k
R26 N012 prop 10k
R27 N012 int 10k
R28 NC_03 diff 10k
R29 N018 N017 10k
C7 diff N015 0.1µ
C9 prop N011 0.1µ
E2 VRT 0 Collector 0 Laplace={Acoupling}/({tau}*s+1)
C1 A1 N012 0.1µ
D2 0 Vrt1 zen
R3 Vrt1 15V 1.5k
Q2 Collector N010 0 0 bjt1
Rheat1 N007 Collector 60
R18 N010 N009 2.2k
C5 N010 0 1µ
D5 0 N010 D
R20 Collector N008 20k
R21 N008 0 10k
C10 Collector N008 0.1µ
D4 N013 0 D
R17 2dof N019 50k
R30 N021 2dof 10k
R33 N003 N005 30k
R34 N001 N003 150k
R35 N006 N005 150k
C8 N001 N003 0.1µ
C11 N006 N005 0.1µ
R36 N002 N001 20k
R37 N004 N006 20k
R38 0 N004 20k
R39 A N002 20k
C12 0 N004 0.1µ
C13 A N002 0.1µ
R40 int P001 100
R41 -15V N020 20k
R42 N020 0 1k
C14 N023 N022 2.2µ
R43 colfb N023 100k
R44 0 colfb 150k
R45 Collector N022 47k
R46 N022 0 22k
D1 0 N013 D
R19 N019 N020 50k
R58 Vrt1 bridge2 R=limit(1k,30k,V(VRT)+{rd0})
B2 N007 0 V=if(time<2500,24,if(time>2500,if(time<2501,0,24),24))
B3 A+noise 0 V=white(time*{noisetime})/{noiselevel}*1+V(A)
B5 bridge_noise 0 V=white(time*{noisetime})/{noiselevel}
V1 NC_04 0 -9
R9 NC_05 NC_06 10
B6 N016 0 V=if(time<2500,0,if(time>2500,if(time<2501,15,0),0))
XU1 bridge1 N003 15V -15V N001 level2 Avol=250k GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
XU14 bridge2 N005 15V -15V N006 level2 Avol=250k GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
XU2 N004 N002 15V -15V A level2 Avol=250k GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
XU3 N008 A1 15V -15V N009 level2 Avol=250k GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
XU4 0 N011 15V -15V prop level2 Avol=250k GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
XU5 0 N014 15V -15V int level2 Avol=250k GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
XU6 0 N015 15V -15V diff level2 Avol=250k GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
XU7 0 N012 15V -15V A1 level2 Avol=250k GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
XU8 0 N019 15V -15V 2dof level2 Avol=250k GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
.model D D
.lib C:\Users\Sergey\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\Sergey\Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 3000
* Wheatstone Bridge
* Supply
* Termoresistor Model
* Thermostat Model
* Power Block
* .model sw1 SW(Roff=1G Ron=25u Vt=4 Vh=0)
* PID
* .param kp=0.5*ku
* .param kd=3*ku*tu/80
* .param ki=0.1*ku/tu/1
* .param tu=0.5
* .param ku=4.1
* .param ki=3
* .ic V(uupr)=0.545k
.model bjt1 AKO:BCW60D (Bf=600   ikf=0)
.model zen AKO:BZX384B6V2 (Bv=6.4)
;dc V1 1 20 0.1
.option abstol=1e-1
* .option cshunt=1e-13
.option gmin=1e-7
* .option reltol=0.001
* .step param rinstr list 1k 5k 10k
* .model awp AKO:BZX384B6V2 (Bv=1.2)
.meas TRAN Rd AVG V(Vrt1,bridge2)/Ix(x1:1) FROM 800 TO 974
.meas TRAN Rd2 AVG V(Vrt1,bridge2)/Ix(x1:1) FROM 1200 TO 1400
* .step param r5 list 200k 100k 50k
* .step param r22 list 50k 100k 300k 500k
* .step param r22 list 100k 150k
* .step param r5 list 50k 100k
* Instrumental amplifier
* Measurements
* Options
* Models
* Params
.param noisetime 10
.param noiselevel 5000
* Noise
.param tau 80
.param Acoupling 90
.param rd0 6400
.lib UniversalOpAmp2.lib
.backanno
.end
